US06552068B1
10% Pd/C (580 mg) was added to a solution of 7-methoxy-3-(4-methoxyphenyl)-3-(2-propenyl)thiochroman-4-one (1.75 g, 5.14 mmol) in ethyl acetate (20 ml) followed by stirring for 15 hours at room temperature under a hydrogen stream. Pd/C was removed by filtration through cellite and the resulting filtrate was concentrated under reduced pressure to give 7-methoxy-3-(4-methoxyphenyl)-3-propylthiochroman-4-one (1.7 g, Yield 96%).

reactant | 7-methoxy-3-(4-methoxyphenyl)-3-(2-propenyl)thiochroman-4-one | 5.14 mmol, 1.75 g | COC1=CC=C2C(C(CSC2=C1)(CC=C)C1=CC=C(C=C1)OC)=O | C20H20O3S
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 580 mg | [Pd] | Pd
product | 7-methoxy-3-(4-methoxyphenyl)-3-propylthiochroman-4-one | 1.7 g, Yield 96% | COC1=CC=C2C(C(CSC2=C1)(CCC)C1=CC=C(C=C1)OC)=O | C20H22O3S
